US09120793B2
(S)-3-{4-[2-(4-Difluoromethoxy-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-6-ylmethoxy]-phenyl}-hex-4-ynoic acid ethyl ester
A mixture of (S)-3-{4-[2-(4-hydroxy-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-6-ylmethoxy]-phenyl}-hex-4-ynoic acid ethyl ester (0.25 g, 0.54 mmol) in DMF (10 mL) is added sodium chloro difluoro acetate (0.142 g, 1.09 mmol) and cesium carbonate (0.354 g, 1.09 mmol) at 0° C. and the reaction mixture is heated at 80° C. for 4 hours. The reaction mixture is diluted with ice cold water (50 mL) and extracted with EtOAc (2×20 mL). The combined organic extracts are washed with saturated brine solution (20 mL), dried over sodium sulphate, filtered, and evaporated to dryness. The crude material is purified by silica gel (combiflash purifier 40 g redisep column) and is eluted with 45% EtOAc in hexane to give the title compound as a colorless semi solid (0.15 g, 55.5%). LCMS m/z 506 (M+H)+.

reactant | (S)-3-{4-[2-(4-hydroxy-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-6-ylmethoxy]-phenyl}-hex-4-ynoic acid ethyl ester | 0.54 mmol, 0.25 g | C(C)OC(C[C@H](C#CC)C1=CC=C(C=C1)OCC=1C=CC=2N(C1)N=C(N2)C2=CC=C(C=C2)O)=O | C27H25N3O4
reactant | sodium chloro difluoro acetate | 1.09 mmol, 0.142 g | C(=O)(C(F)(F)Cl)[O-].[Na+]
reactant | cesium carbonate | 1.09 mmol, 0.354 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (S)-3-{4-[2-(4-Difluoromethoxy-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-6-ylmethoxy]-phenyl}-hex-4-ynoic acid ethyl ester | C(C)OC(C[C@H](C#CC)C1=CC=C(C=C1)OCC=1C=CC=2N(C1)N=C(N2)C2=CC=C(C=C2)OC(F)F)=O | C28H25F2N3O4
